US09284273B2
(2S,5R)-tert-Butyl 6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylate (F1)
To a solution of 4.14 g (13.51 mmol) of (2S,5R)-tert-butyl 5-(benzyloxyamino)piperidine-2-carboxylate in dehydrated acetonitrile (615 mL), under argon atmosphere, at 0° C., was added triethylamine 4.9 mL (35.16 mmol), and subsequently 1.18 mL (9.78 mmol) of diphosgene was added dropwise within 5 minutes, followed by stirring at the same temperature for 10 minutes. 182 mg (1.623 mmol) of 4-dimethylaminopyridine was added to this solution, and the temperature was raised to room temperature, followed by allowing to react for 3 hours. After the reaction mixture was concentrated under reduced pressure to the volume of one tenth thereof, the resulting concentrated solution was diluted with ethyl acetate, washed sequentially with water, 5% aqueous citric acid solution, 6.5% aqueous sodium hydrogencarbonate solution and saturated brine and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resulting residue was applied to silica gel column chromatography (hexane/ethyl acetate=2/1) to afford 3.09 g of the title compound (yield 69%). The resulting solid was recrystallized from ethyl acetate-hexane, and the generated precipitate was filtered off. The wet crystal was washed with hexane, and subsequently dried under reduced pressure at room temperature to afford the title compound as a colorless crystalline powder. Enantiomeric excess: 99.4% ee (CHIRALPAK AD-H, 4.6×150 mm, hexane/ethanol=2/1, UV 210 nm, flow rate 1 mL/min., retention time 8.0 min.).

reactant | (2S,5R)-tert-butyl 5-(benzyloxyamino)piperidine-2-carboxylate | 13.51 mmol, 4.14 g | C(C1=CC=CC=C1)ON[C@@H]1CC[C@H](NC1)C(=O)OC(C)(C)C | C17H26N2O3
reactant | triethylamine | 35.16 mmol, 4.9 mL | C(C)N(CC)CC | C6H15N
reactant | diphosgene | 9.78 mmol, 1.18 mL | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
solvent | acetonitrile | 615 mL | C(C)#N | C2H3N
catalyst | 4-dimethylaminopyridine | 1.623 mmol, 182 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (2S,5R)-tert-Butyl 6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylate | 3.09 g, yield 69% | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)OC(C)(C)C | C18H24N2O4
